US08492371B2
5-(1-methylcyclopropyl)-1,3,4-thiadiazol-2-amine
Commercially available, 1-methyl-cyclopropane-1-carboxylic acid (Aldrich), thiosemicarbazide (Aldrich) and phosphorus oxychloride (Aldrich) were processed as described for Example 1A to obtain the title compound. 1H NMR (300 MHz, DMSO-d6) δ ppm 0.84-0.93 (m, 2H), 0.93-1.03 (m, 2H), 1.41 (s, 3H), 6.94 (s, 2H); MS (ESI+) m/z 156 (M+H)+.

reactant | 1-methyl-cyclopropane-1-carboxylic acid | CC1(CC1)C(=O)O | C5H8O2
reactant | thiosemicarbazide | NNC(=S)N | CH5N3S
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-(1-methylcyclopropyl)-1,3,4-thiadiazol-2-amine | CC1(CC1)C1=NN=C(S1)N | C6H9N3S
